US07125896B2
b) 1-[2-(2-Bromophenoxy)ethyl]-4-fluoropiperidine
A mixture of 1-bromo-2-(2-chloroethoxy)benzene (2.35 g), 4-fluoropiperidine hydrochloride (1.54 g), potassium carbonate (4.06 g) and potassium iodide (0.83 g) in dimethylformamide (20 ml) was heated at 80° C. for 18 h. After evaporation, the residue was partitioned between ethyl acetate and water. The solvent phase was washed (brine), dried and evaporated to give an oil (1.0 g).

reactant | 1-bromo-2-(2-chloroethoxy)benzene | 2.35 g | BrC1=C(C=CC=C1)OCCCl | C8H8BrClO
reactant | 4-fluoropiperidine hydrochloride | 1.54 g | Cl.FC1CCNCC1
reactant | potassium carbonate | 4.06 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.83 g | [I-].[K+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-[2-(2-Bromophenoxy)ethyl]-4-fluoropiperidine | 1.0 g | BrC1=C(OCCN2CCC(CC2)F)C=CC=C1 | C13H17BrFNO
